US04613208
A suspension of 0.840 g of 2-chloro-4-nitro-1-nitrosobenzene in 20 ml of glacial acetic acid was heated to 70° C. and treated while stirring with a solution, heated to 110° C., of 0.926 g of 4-amino-4'-hydroxybiphenyl [prepared according to Chem. Berichte 27 (1894) 2627] in 43 ml of glacial acetic acid. The dark solution was stirred at 70° C. for a further 2.25 hours, then cooled to room temperature and extracted with methylene chloride. The extracts were washed with water, 10% sodium hydrogen carbonate solution and again with water, dried over sodium sulphate and concentrated in vacuo. Thus yielding 1.3 g of crude 2-chloro-4-nitro-4'-(4-hydroxyphenyl)azobenzene as brown crystals.

reactant | 2-chloro-4-nitro-1-nitrosobenzene | 0.840 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N=O | C6H3ClN2O3
reactant | 4-amino-4'-hydroxybiphenyl | 0.926 g | NC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H11NO
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 43 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-4-nitro-4'-(4-hydroxyphenyl)azobenzene | 1.3 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H12ClN3O3
